US07365061B2
Part II: Trans 2,3-dicarboethoxy-1,2,3,4-tetrahydronaphthalene
To a stirred solution of 1,4-dihydro-2,3-benzoxathiin 3-oxide (2.0 g, 11.9 mmol) in toluene (20 mL) was added diethyl fumarate (3.9 mL, 23.8 mmol). Upon completion of addition, the reaction mixture was heated to 110° C. for 16 h under nitrogen. The solvent was removed under vacuum to yield a residue. The residue was purified by silica gel chromatography eluting with 10% ethyl acetate in hexane to yield the title compound (2.1 g, 64%). 13C NMR (400 MHz, CDCl3) δ 174.1, 133.7, 128.3, 126.1, 60.5, 42.3, 42.0, 31.6, 14.3, 14.0. 1H NMR (400 MHz, CDCl3) δ 7.04-7.15 (m, 4H), 4.18 (m, 4H), 3.12 (dd, J=2.6, 12.4 Hz, 2H), 2.87-3.03 (m, 4H), 1.27 (t, J=7.5 Hz, 6H). MS [M+Na]+, 299.

reactant | 1,4-dihydro-2,3-benzoxathiin 3-oxide | 11.9 mmol, 2.0 g | C1OS(CC2=C1C=CC=C2)=O | C8H8O2S
reactant | diethyl fumarate | 23.8 mmol, 3.9 mL | C(\C=C\C(=O)OCC)(=O)OCC | C8H12O4
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | Trans 2,3-dicarboethoxy-1,2,3,4-tetrahydronaphthalene | 2.1 g, 64% | C(=O)(OCC)[C@@H]1CC2=CC=CC=C2C[C@H]1C(=O)OCC | C16H20O4
